US07479502B2
5-Bromo-3-formyl-4-methoxybenzoic acid (480 mg, 1.84 mmol) was dissolved in anhydrous tetrahydrofuran (20 mL) and the solution was flushed with dry nitrogen for 5 minutes. Oxalyl chloride (1.2 mL, 2.4 mmol, 1.3 eq) was added slowly to the solution while vigorous stirring and then a catalytic amount of dry dimethylformamide was added. The mixture was stirred for 1 hour and then concentrated by rotary evaporation and dried on high vacuum to give 5-bromo-3-formyl-4-methoxybenzoyl chloride (501 mg) as yellow crystals.

reactant | 5-Bromo-3-formyl-4-methoxybenzoic acid | 1.84 mmol, 480 mg | BrC=1C(=C(C=C(C(=O)O)C1)C=O)OC | C9H7BrO4
reactant | Oxalyl chloride | 2.4 mmol, 1.2 mL, 1.3 eq | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylformamide | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 5-bromo-3-formyl-4-methoxybenzoyl chloride | 501 mg | BrC=1C(=C(C=C(C(=O)Cl)C1)C=O)OC | C9H6BrClO3
